US05589478
N-[6-{2-(5-Bromopyrimidin-2-yloxy)ethoxy}-5-(4-methylphenyl)pyrimidin-4-yl]-4-tert-butylbenzenesulfonamide and benzaldehyde are treated in the same manner as in Example 129 to give 4-tert-butyl-N-[6-{2-(5-(α-hydroxybenzyl)primidin-2-yloxy)ethoxy}-5-(4-methylphenyl)pyrimidin-4-yl]benzenesulfonamide.

reactant | N-[6-{2-(5-Bromopyrimidin-2-yloxy)ethoxy}-5-(4-methylphenyl)pyrimidin-4-yl]-4-tert-butylbenzenesulfonamide | BrC=1C=NC(=NC1)OCCOC1=C(C(=NC=N1)NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)C1=CC=C(C=C1)C | C27H28BrN5O4S
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
product | 4-tert-butyl-N-[6-{2-(5-(α-hydroxybenzyl)primidin-2-yloxy)ethoxy}-5-(4-methylphenyl)pyrimidin-4-yl]benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC(=C1C1=CC=C(C=C1)C)OCCOC1=NC=C(C=N1)C(C1=CC=CC=C1)O | C34H35N5O5S
